US05587504
Synthesis of 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline
2.62 g (8.05 mmol) of 4,4-dimethyl-2-(4'-methoxymethoxymethylbiphenyl-2-yl)oxazoline was dissolved in methanol (20 ml). 6N hydrochloric acid (10 ml) was added thereto, followed by stirring at 40° C. for 2 hours. The reaction liquid was poured into a saturated aqueous solution of sodium hydrogencarbonate, followed by the extraction with chloroform. After washing with water and drying, vacuum concentration was conducted. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 2.20 g of the title compound as a crystal (yield 97%).

reactant | 4,4-dimethyl-2-(4'-methoxymethoxymethylbiphenyl-2-yl)oxazoline | 8.05 mmol, 2.62 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)COCOC)C | C20H23NO3
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline | 2.20 g, yield 97% | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO)C | C18H19NO2
